US05994378
To a solution of ethyl 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionate (2.30 g) in a mixed solvent of tetrahydrofuran (30 ml)and methanol (15 ml) was added 1N sodium hydroxide solution (6.8 ml) at room temperature. The solution was stirred for two hours and concentrated under reduced pressure. The residue was diluted with water and acidified with 1N hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate to give 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionic acid (2.17 g) as an amorphous solid.

reactant | ethyl 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionate | 2.30 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(C(=O)OCC)C)C(=CC=C2)OC | C28H31NO6S
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 6.8 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-6-methoxyphenoxy}propionic acid | 2.17 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(C(=O)O)C)C(=CC=C2)OC | C26H27NO6S
